US09238640B2
Preparation of 3-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)benzyl)imidazolidine-2,4-dione
To a solution of 2-amino-4,6-dimethoxy-benzamide (0.19 g, 0.98 mmol) in N,N-dimethylacetamide (4 mL) were added 4-(2,5-dioxo-imidazolidin-1-ylmethyl)-benzaldehyde (0.19 g, 0.89 mmol), sodium hydrogen sulfite (58.5 wt %, 0.24 g, 1.30 mmol) and p-toluenesulfonic acid monohydrate (34 mg, 0.18 mmol) and the reaction mixture was stirred at 115° C. for 17 hours under nitrogen, then cooled to room temperature. The precipitate was filtered, washed with methanol, water, then methanol, and dried in air. The solid was suspended in hot DMSO (approximately 3 mL); saturated aqueous NaHCO3 (approximately 3 mL) and water were added. The solid was filtered, washed with water, then methanol, and air dried to give the title compound as a light yellow solid. Yield: 0.16 g (46%). MP 317-318° C. 1H NMR (400 MHz, DMSO-d6): δ 12.05 (s, 1H), 8.17 (s, 1H), 8.12 (d, J=8.4 Hz, 2H), 7.40 (d, J=8.4 Hz, 2H), 6.74 (d, J=2.0 Hz, 1H), 6.54 (d, J=2.0 Hz, 1H), 4.61 (s, 2H), 4.02 (s, 2H), 3.89 (s, 3H), 3.85 (s, 3H). MS (ES+) m/z: 395.09 (M+1).

reactant | 2-amino-4,6-dimethoxy-benzamide | 0.98 mmol, 0.19 g | NC1=C(C(=O)N)C(=CC(=C1)OC)OC | C9H12N2O3
reactant | 4-(2,5-dioxo-imidazolidin-1-ylmethyl)-benzaldehyde | 0.89 mmol, 0.19 g | O=C1N(C(CN1)=O)CC1=CC=C(C=O)C=C1 | C11H10N2O3
reactant | sodium hydrogen sulfite | 1.30 mmol, 0.24 g | S(=O)(O)[O-].[Na+]
reactant | p-toluenesulfonic acid monohydrate | 0.18 mmol, 34 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | N,N-dimethylacetamide | 4 mL | CN(C(C)=O)C | C4H9NO
product | 3-(4-(5,7-Dimethoxy-4-oxo-3,4-dihydroquinazolin-2-yl)benzyl)imidazolidine-2,4-dione | COC1=C2C(NC(=NC2=CC(=C1)OC)C1=CC=C(CN2C(NCC2=O)=O)C=C1)=O | C20H18N4O5
